US07119109B2
c) (4,4,4-Trifluoro-3-hydroxybutyl)carbamic acid tert-butyl ester
A solution of 4-azido-1,1,1-trifluoro-2-butanol (0.737 g, 4.36 mmol) in THF (9 mL) was treated with water (2 mL) and triphenylphosphine (1.15 g, 4.38 mmol) at ambient temperature. After stirring for 16 h, di-t-butyldicarbonate (1.11 g, 5.08 mmol) was added and stirring continued for 4 h. The mixture was concentrated under reduced pressure, diluted with water, and extracted with diethyl ether. The combined organic extracts were washed (brine), dried, and evaporated to a tan oil. The crude oil was purified by silica gel chromatography, eluting with 1:1 hexane/diethyl ether (v/v), to give the product as an oil (1.06 g, 100%).

reactant | 4-azido-1,1,1-trifluoro-2-butanol | 4.36 mmol, 0.737 g | N(=[N+]=[N-])CCC(C(F)(F)F)O | C4H6F3N3O
reactant | water | 2 mL | O | H2O
reactant | triphenylphosphine | 4.38 mmol, 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-t-butyldicarbonate | 5.08 mmol, 1.11 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | (4,4,4-Trifluoro-3-hydroxybutyl)carbamic acid tert-butyl ester | 1.06 g, 100% | C(C)(C)(C)OC(NCCC(C(F)(F)F)O)=O | C9H16F3NO3
